US08686022B2
7-[4-(azetidine-3-carbonyl)-piperazin-1-ylmethyl]-1-methyl-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
243 mg of tert-butyl 3-{4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carbonyl}-azetidine-1-carboxylate are dissolved in 3 ml dichloromethane, cooled to 0° C. and combined with 261 μl trifluoroacetic acid. The mixture is allowed to come up to ambient temperature and stirred for 12 hours. Then a further 1.5 ml of trifluoroacetic acid are added and the mixture is stirred for 2 hours. Then it is diluted with dichloromethane and adjusted to pH 9 with 1 N sodium hydroxide solution. Saturated sodium chloride solution and saturated potassium carbonate solution are added and the phases are separated. The aqueous phase is extracted twice with dichloromethane. The combined organic phases are dried on magnesium sulphate and the solvents are eliminated in vacuo.

reactant | tert-butyl 3-{4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carbonyl}-azetidine-1-carboxylate | 243 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1CN(C1)C(=O)OC(C)(C)C)C)OC)NS(=O)(=O)C | C36H50N6O7S
reactant | trifluoroacetic acid | 261 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 7-[4-(azetidine-3-carbonyl)-piperazin-1-ylmethyl]-1-methyl-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1CNC1)C)OC)NS(=O)(=O)C | C31H42N6O5S
